US08912169B2
Step 1: Synthesis of 2-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)cyclohexyl)acetic acid
To 2-(4-oxocyclohexyl)acetic acid (0.576 g, 3.7 mmol) and tert-butyl piperazine-1-carboxylate (0.700 g, 3.7 mmol) in MeOH, was added Pd on carbon (80 mg), and the resultant reaction mixture was stirred under hydrogen atmosphere overnight. The catalyst was removed via filtration and the solvent was removed under reduced pressure to afford the acid as white solid (1.2 g. 99%).

reactant | 2-(4-oxocyclohexyl)acetic acid | 3.7 mmol, 0.576 g | O=C1CCC(CC1)CC(=O)O | C8H12O3
reactant | tert-butyl piperazine-1-carboxylate | 3.7 mmol, 0.700 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | MeOH | CO | CH4O
catalyst | Pd on carbon | 80 mg | [Pd] | Pd
product | 2-(4-(4-(tert-butoxycarbonyl)piperazin-1-yl)cyclohexyl)acetic acid | 1.2 g, 99% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1CCC(CC1)CC(=O)O | C17H30N2O4
